US08431569B2
Step 2. 1-[(2-Hydroxy-1,2-dimethylpropyl)amino]-7-(2-pyridin-3-ylethyl)-5H-pyrido[4,3-b]indole-4-carboxamide
Hydrogen was bubbled through a solution of 1-[(2-hydroxy-1,2-dimethylpropyl)amino]-7-(pyridin-3-ylethynyl)-5H-pyrido[4,3-b]indole-4-carboxamide (10 mg, 0.024 mmol) and Pd/C (10%, 2.6 mg) in EtOH (1.3 mL). After complete conversion, the mixture was purged with nitrogen, filtered through a pad of Celite, and concentrate to afford the title compound. LRMS (APCI) calc'd for (C24H27N5O2) [M+H]+, 418.2. found 418.2.

reactant | Hydrogen | [H][H] | H2
reactant | 1-[(2-hydroxy-1,2-dimethylpropyl)amino]-7-(pyridin-3-ylethynyl)-5H-pyrido[4,3-b]indole-4-carboxamide | 0.024 mmol, 10 mg | OC(C(C)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C#CC=2C=NC=CC2)C(=O)N)(C)C | C24H23N5O2
solvent | EtOH | 1.3 mL | CCO | C2H6O
catalyst | Pd/C | 2.6 mg | [Pd] | Pd
product | 1-[(2-Hydroxy-1,2-dimethylpropyl)amino]-7-(2-pyridin-3-ylethyl)-5H-pyrido[4,3-b]indole-4-carboxamide | OC(C(C)NC1=NC=C(C=2NC=3C=C(C=CC3C21)CCC=2C=NC=CC2)C(=O)N)(C)C | C24H27N5O2
